US09416132B2
To a solution of 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine (300 mg, 0.96 mmol) and 4-amino-2-methylbutan-2-ol hydrogenchloride (493 mg, 4.78 mmol) in NMP (2.0 mL) was added NaHCO3 (516 mg, 4.78 mmol), the mixture was stirred at 180° C. for 45 mins under microwave irridation. The mixture was purified by flash chromatograph to give 2-methyl-4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)butan-2-ol (175 mg, 48%) as a pale yellow solid.

reactant | 6-chloro-3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazine | 0.96 mmol, 300 mg | ClC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F | C13H7ClF3N3O
reactant | 4-amino-2-methylbutan-2-ol hydrogenchloride | 4.78 mmol, 493 mg | Cl.NCCC(C)(O)C
reactant | NaHCO3 | 4.78 mmol, 516 mg | C(=O)(O)[O-].[Na+]
solvent | NMP | 2.0 mL | CN1CCCC1=O | C5H9NO
product | 2-methyl-4-((3-(3-(trifluoromethoxy)phenyl)imidazo[1,2-b]pyridazin-6-yl)amino)butan-2-ol | 175 mg, 48% | CC(C)(CCNC=1C=CC=2N(N1)C(=CN2)C2=CC(=CC=C2)OC(F)(F)F)O | C18H19F3N4O2
